US07812020B2
To a solution of 4-(4,6-dichloro-5-nitropyridin-2-yl)-morpholine (2.02 g) in methanol (15 ml) was added sodium methoxide (0.98 g) and the mixture was heated for 16 hours at 65° C. After cooling to ambient temperature the reaction mixture was concentrated in vacuo. The crude product was subjected to flash chromatography (SiO2, heptane/ethylacetate 3:1) to furnish 0.89 g (45% yield) of 4-(4-chloro-6-methoxy-5-nitropyridin-2-yl)-morpholine (fast eluting band) and 0.38 g (19%) of 4-(6-chloro-4-methoxy-5-nitropyridin-2-yl)-morpholine (late eluting band), both as yellow solids.

reactant | 4-(4,6-dichloro-5-nitropyridin-2-yl)-morpholine | 2.02 g | ClC1=CC(=NC(=C1[N+](=O)[O-])Cl)N1CCOCC1 | C9H9Cl2N3O3
reactant | sodium methoxide | 0.98 g | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-(4-chloro-6-methoxy-5-nitropyridin-2-yl)-morpholine | 0.89 g, 45% yield | ClC1=CC(=NC(=C1[N+](=O)[O-])OC)N1CCOCC1 | C10H12ClN3O4
